US08084395B2
55 g (0.21 mole) of 4-[2-(4-Fluoro-phenyl)-1,1-dimethoxy-ethyl]-pyridine and 445 mg of methyltrioxorhenium are dissolved in 250 mL of dichloromethane. 112 mL of commercial hydrogen peroxide solution is added to the reaction mixture which is further stirred over night at room temperature. The reaction mixture is then decanted and the organic phase is washed with sodium hydrogen sulfate and water and dried over magnesium sulfate. After concentration, 33 g of 4-[2-(4-Fluoro-phenyl)-1,1-dimethoxy-ethyl]-pyridine 1-oxide is obtained as a green oil.

reactant | 4-[2-(4-Fluoro-phenyl)-1,1-dimethoxy-ethyl]-pyridine | 0.21 mole, 55 g | FC1=CC=C(C=C1)CC(OC)(OC)C1=CC=NC=C1 | C15H16FNO2
reactant | hydrogen peroxide | 112 mL | OO | H2O2
solvent | dichloromethane | 250 mL | ClCCl | CH2Cl2
catalyst | methyltrioxorhenium | 445 mg | C[Re](=O)(=O)=O
product | 4-[2-(4-Fluoro-phenyl)-1,1-dimethoxy-ethyl]-pyridine 1-oxide | 33 g | FC1=CC=C(C=C1)CC(OC)(OC)C1=CC=[N+](C=C1)[O-] | C15H16FNO3
